US07220744B2
5-Methanesulfonyl-2-morpholin-4-yl-benzoic acid
A mixture of 4.26 mmol 2-chloro-5-methanesulfonyl-benzoic acid (Example A1(a)) in 8 ml morpholine was heated at 110° C. for 15 h. After evaporation of all volatiles the residue was acidified by addition of 1 N HCl and extracted three times with ethyl acetate. The combined organic extracts were washed sequentially with 1 N HCl and saturated brine, dried over sodium sulphate, and concentrated in vacuo to afford the title compound as a light yellow amorphous solid (58%). MS (m/e): 284.1 ([M−H]−, 100%).

reactant | 2-chloro-5-methanesulfonyl-benzoic acid | 4.26 mmol | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
reactant | morpholine | 8 ml | N1CCOCC1 | C4H9NO
product | 5-Methanesulfonyl-2-morpholin-4-yl-benzoic acid | 58% | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)N1CCOCC1 | C12H15NO5S
